US06376685B1
To a solution of the crude N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol obtained in Reference Example 3 and dissolved in ethyl acetate 250 kg were added isopropylether 230 kg, methane sulfonylchloride 34.7 kg at 20-30° C., and triethylamine 30.6 kg and stirring at 30-40° C. for 1 hr. N-heptane was added to the reaction solution and the obtained solution was cooled down to 50° C. or lower to deposit crystals, which were filtered by centrifugation to obtain a wet crystal of crude N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-methane sulfonyloxybutane 153.6 kg (Net.60.6 kg).

reactant | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol | C(C)(C)(C)OC(=O)N[C@H]([C@H](CO)O)CC1=CC=CC=C1 | C15H23NO4
reactant | isopropylether | 230 kg | C(C)(C)OC(C)C | C6H14O
reactant | methane sulfonylchloride | 34.7 kg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 30.6 kg | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 250 kg | C(C)(=O)OCC | C4H8O2
solvent | N-heptane | CCCCCCC | C7H16
product | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-methane sulfonyloxybutane | 153.6 kg | C(C)(C)(C)OC(=O)N[C@H]([C@H](COS(=O)(=O)C)O)CC1=CC=CC=C1 | C16H25NO6S
